US06720338B2
methyl 4-(4-hydroxy-2-oxopyridin-1(2H)-yl)benzoate
A mixture of methyl 4-iodobenzoate (0.421 g, 1.6 mmol), 2,4-dihydroxypyridine (0.174 g, 1.34 mmol), CuI (25 mg, 0.134 mmol) and K2CO3 (200 mg) in DMF (2 mL) was heated to 150° C. in a sealed vial for 4 hours, diluted with ethyl acetate (100 mL), washed with water (30 mL) and brine (30 mL), dried (Na2SO4), filtered, and concentrated. The concentrate was purified by flash column chromatography on silica gel with 2:1 hexanes/ethyl acetate to provide the desired product. MS (APCI) m/e 246 (M+H)+.

reactant | methyl 4-iodobenzoate | 1.6 mmol, 0.421 g | IC1=CC=C(C(=O)OC)C=C1 | C8H7IO2
reactant | 2,4-dihydroxypyridine | 1.34 mmol, 0.174 g | OC1=NC=CC(=C1)O | C5H5NO2
reactant | K2CO3 | 200 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | CuI | 0.134 mmol, 25 mg | [Cu]I
product | methyl 4-(4-hydroxy-2-oxopyridin-1(2H)-yl)benzoate | OC1=CC(N(C=C1)C1=CC=C(C(=O)OC)C=C1)=O | C13H11NO4
